US07390798B2
1-{[2-(Trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one
Sodium hydride (60% dispersion in mineral oil; 16.2 g, 0.404 mol) was added in portions over 25 min to a solution of 7-azaindole (39.8 g, 0.337 mol) in DMF (200 mL) at 0 □C and the mixture was stirred for 1 h. 2-(Trimethylsilyl)ethoxymethyl chloride (71.8 mL, 0.404 mol) was then added slowly over 15 min, keeping the temperature of the reaction mixture below 10 □C. After 1 h, the reaction was quenched with H2O (500 mL) and the mixture was extracted with CH2Cl2 (5×300 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, concentrated and dried under high vacuum to give the title compound. MS: m/z=249 (M+1).

reactant | Sodium hydride | 0.404 mol, 16.2 g | [H-].[Na+]
reactant | 7-azaindole | 0.337 mol, 39.8 g | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | 2-(Trimethylsilyl)ethoxymethyl chloride | 0.404 mol, 71.8 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 1-{[2-(Trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | C[Si](CCOCN1C(CC=2C1=NC=CC2)=O)(C)C | C13H20N2O2Si
